US05306692
Ethyl 2-[6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)indazol-1-yl]propionate prepared as described in Example 2 (30 mgs) was dissolved in THF (0.1 cm3) and isopropanol (0.28 cm3). 1.73M sodium hydroxide (0.04 cm3) was added and the mixture stirred at room temperature for 8 hours and left to stand overnight. The solvent was removed under vacuum and the residue dissolved in water (2 cm3). 2M hydrocloric acid (0.035 cm3) was added dropwise with stirring. After 1.5 hours the solid product was filtered off, washed with water and air dried to give 2-[6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy) indazol-1-yl]propionic acid (11 mgs) as a white solid. Compound No 4 was prepared by an analogous process using appropriate reactants.

reactant | Ethyl 2-[6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)indazol-1-yl]propionate | ClC1=C(OC2=CC=C3C=NN(C3=C2)C(C(=O)OCC)C)C(=CC(=C1)C(F)(F)F)F | C19H15ClF4N2O3
reactant | sodium hydroxide | 1.73M, 0.04 cm3 | [OH-].[Na+]
solvent | THF | 0.1 cm3 | C1CCOC1 | C4H8O
solvent | isopropanol | 0.28 cm3 | C(C)(C)O | C3H8O
product | 2-[6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy) indazol-1-yl]propionic acid | 11 mgs | ClC1=C(OC2=CC=C3C=NN(C3=C2)C(C(=O)O)C)C(=CC(=C1)C(F)(F)F)F | C17H11ClF4N2O3
